US09085540B2
A mixture of 3,5-dichloro-6-ethylpyrazine-2-carboxamide (420 mg), 4-[(2S)-2,4-dimethylpiperazin-1-yl]aniline (392 mg), diisopropylethylamine (665 μL), and dioxane (8.4 mL) was stirred at 110° C. overnight. To the reaction mixture was added water, followed by extraction with ethyl acetate. The organic phase was washed with saturated brine and dried over anhydrous magnesium sulfate, and then the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (eluent; chloroform:methanol=95:5) to obtain 5-chloro-3-({4-[(2S)-2,4-dimethylpiperazin-1-yl]phenyl}amino)-6-ethylpyrazine-2-carboxamide (560 mg) as a brown solid.

reactant | 3,5-dichloro-6-ethylpyrazine-2-carboxamide | 420 mg | ClC=1C(=NC(=C(N1)Cl)CC)C(=O)N | C7H7Cl2N3O
reactant | 4-[(2S)-2,4-dimethylpiperazin-1-yl]aniline | 392 mg | C[C@@H]1N(CCN(C1)C)C1=CC=C(N)C=C1 | C12H19N3
reactant | diisopropylethylamine | 665 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | dioxane | 8.4 mL | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | 5-chloro-3-({4-[(2S)-2,4-dimethylpiperazin-1-yl]phenyl}amino)-6-ethylpyrazine-2-carboxamide | 560 mg | ClC=1N=C(C(=NC1CC)C(=O)N)NC1=CC=C(C=C1)N1[C@H](CN(CC1)C)C | C19H25ClN6O
